US05037990
a) 3-(2-Benzylaminoethyl)-phenol
A mixture of 17.6 g. (79.6 mMol) tetrahydropyran-2-yl ether of 3-(2-aminoethyl)-phenol, 150 ml. ethanol and 8.9 g. (83.5 mMol) benzaldehyde is stirred for 1 hour at ambient temperature, 3.5 g. (92 mMol) sodium borohydride are added thereto at 0° C. with vigorous stirring and the reaction allowed to continue for 1 hour at 0° C. and for 1 hour at ambient temperature. The reaction mixture is then evaporated in a vacuum and the residue mixed with diethyl ether and water. After shaking up, the ethereal phase is separated off, dried with anhydrous sodium sulphate and mixed dropwise with concentrated sulphuric acid. The precipitated sulphate is dissolved in water, some 2N hydrochloric acid is added thereto, followed by heating on a waterbath for 10 minutes and cooling. By the addition of sodium carbonate, the base is liberated. It is extracted with diethyl ether, the ethereal solution is dried with anhydrous sodium sulphate and evaporated. Yield 15.0 g. (83% of theory); m.p. 86°-88° C.

reactant | tetrahydropyran-2-yl ether | 79.6 mMol | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 3-(2-aminoethyl)-phenol | NCCC=1C=C(C=CC1)O | C8H11NO
reactant | benzaldehyde | 83.5 mMol | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 92 mMol | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-Benzylaminoethyl)-phenol | C(C1=CC=CC=C1)NCCC=1C=C(C=CC1)O | C15H17NO
